US06451821B1
1.1 g of N-(tert-butyl)-N′-[(1R)-2-hydroxy-1-(3-nitrobenzyl)ethyl]thiourea in 12 cm3 of 6N hydrochloric acid are heated for 5 hours at a temperature in the region of 100° C. The reaction medium is then cooled to a temperature in the region of 0° C.; a white precipitate forms, which is filtered off on a sinter funnel and then washed with 3 times 20 cm3 of diethyl ether. The filter cake is then dried in a desiccator under vacuum. 0.68 g of (+)-(4R)-4-(3-nitrobenzyl)-4,5-dihydro-1,3-thiazol-2-ylamine hydrochloride is obtained in the form of beige-colored crystals melting at 232° C. [1H NMR spectrum (300 MHz, (CD3)2SO-d6, δ in ppm): 3.15 (limiting AB: 2H); from 3.25 to 3.45 (mt: 1H); 3.63 (dd, J=13 and 8 Hz: 1H); 4.62 (mt: 1H); 7.68 (t, J=8 Hz: 1H); 7.81 (broad d, J=8 Hz: 1H); 8.18 (broad d, J=8 Hz: 1H); 8.24 (broad s: 1H); from 9.00 to 10.40 (unres. (a20 mult.: 3H); (αD20=+18.8±0.6 at a concentration of 0.5% in methanol)].

reactant | N-(tert-butyl)-N′-[(1R)-2-hydroxy-1-(3-nitrobenzyl)ethyl]thiourea | 1.1 g | C(C)(C)(C)NC(=S)N[C@@H](CO)CC1=CC(=CC=C1)[N+](=O)[O-] | C14H21N3O3S
reactant | hydrochloric acid | 6N, 12 cm3 | Cl | ClH
product | (+)-(4R)-4-(3-nitrobenzyl)-4,5-dihydro-1,3-thiazol-2-ylamine hydrochloride | 0.68 g | Cl.[N+](=O)([O-])C=1C=C(C[C@H]2N=C(SC2)N)C=CC1 | InChI=1S/C10H11N3O2S.ClH/c11-10-12-8(6-16-10)4-7-2-1-3-9(5-7)13(14)15;/h1-3,5,8H,4,6H2,(H2,11,12);1H/t8-;/m1./s1
